US06166006
To a solution of 2-(4-methylphenyl)benzofuran-5-carbaldehyde (500 mg) and 1-methylcyclohexene (1.2 ml) in DMF (15 ml) was added a solution (9 ml) of sodium chlorite (80%, 1.5 g) and sodium dihydrogenphosphate (1.5 g) at room temperature, and the mixture was stirred for 3 hours. To the mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with sodium thiosulfate and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the precipitated crystals were collected by filtration, which were washed with diethylether to give colorless crystals of 2-(4-methylphenyl)benzofuran-5-carboxylic acid (395 mg).

reactant | 2-(4-methylphenyl)benzofuran-5-carbaldehyde | 500 mg | CC1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)C=O | C16H12O2
reactant | 1-methylcyclohexene | 1.2 ml | CC1=CCCCC1 | C7H12
reactant | sodium chlorite | 9 ml, 1.5 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 1.5 g | P(=O)(O)(O)[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-(4-methylphenyl)benzofuran-5-carboxylic acid | 395 mg | CC1=CC=C(C=C1)C=1OC2=C(C1)C=C(C=C2)C(=O)O | C16H12O3
